US09427475B2
Step B: benzyl 6-((3R,4R)-3,4-bis((2-(((2R,3S,4R,5S,6S)-3,4,5-trihydroxy-6-methyltetrahydro-2H-pyran-2-yl)oxy)ethyl)carbamoyl)piperidin-1-yl)hexanoate
(3R,4R)—N3,N4-bis(2-(((2R,3S,4R,5S,6S)-3,4,5-trihydroxy-6-methyltetrahydro-2H-pyran-2-yl)oxy)ethyl)piperidine-3,4-dicarboxamide (118 mg, 0.214 mmol) was dissolved in THF (2 mL), to which benzyl 6-oxohexanoate (70.7 mg, 0.321 mmol) in THF (0.5 mL) was added, followed by sodium triacetoxyborohydride (136 mg, 0.642 mmol) and acetic acid (3.67 μL, 0.064 mmol) were added, and the mixture was stirred at room temperature for 3 h. The product was isolated by preparative reverse-phase chromatography on C-18 column, using a gradient of 0-30% of AcN in water. UPLC Method F: m/e=756.4241 [M+1]; Rt=3.05 min

reactant | (3R,4R)—N3,N4-bis(2-(((2R,3S,4R,5S,6S)-3,4,5-trihydroxy-6-methyltetrahydro-2H-pyran-2-yl)oxy)ethyl)piperidine-3,4-dicarboxamide | 0.214 mmol, 118 mg | O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1O)O)C)OCCNC(=O)[C@H]1CNCC[C@H]1C(=O)NCCO[C@@H]1O[C@H]([C@H]([C@H]([C@@H]1O)O)O)C | C23H41N3O12
reactant | benzyl 6-oxohexanoate | 0.321 mmol, 70.7 mg | O=CCCCCC(=O)OCC1=CC=CC=C1 | C13H16O3
reactant | sodium triacetoxyborohydride | 0.642 mmol, 136 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.064 mmol, 3.67 μL | C(C)(=O)O | C2H4O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | benzyl 6-((3R,4R)-3,4-bis((2-(((2R,3S,4R,5S,6S)-3,4,5-trihydroxy-6-methyltetrahydro-2H-pyran-2-yl)oxy)ethyl)carbamoyl)piperidin-1-yl)hexanoate | O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1O)O)C)OCCNC(=O)[C@H]1CN(CC[C@H]1C(NCCO[C@@H]1O[C@H]([C@H]([C@H]([C@@H]1O)O)O)C)=O)CCCCCC(=O)OCC1=CC=CC=C1 | C36H57N3O14
